US08013010B2
5-Bromo-2-pyridinyl Acetate
A suspension of 0.5 g (2.87 mmol) of 5-bromo-2-pyridinol in 10 ml of ethyl ether is prepared and 1 ml (7.1 mmol) of triethylamine and then 1 ml (14 mmol) of acetyl chloride are added at ambient temperature. The mixture is stirred at ambient temperature for 24 hours and then the insoluble materials are removed by filtration. The filtrate is concentrated under reduced pressure and the crude product is purified by chromatography on silica gel, elution being carried out using a toluene/2-propanol mixture (9/1; v/v). The expected product is obtained in the form of a pale yellow powder with a yield of 52%.

reactant | 5-bromo-2-pyridinol | 2.87 mmol, 0.5 g | BrC=1C=CC(=NC1)O | C5H4BrNO
reactant | triethylamine | 7.1 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 14 mmol, 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-Bromo-2-pyridinyl Acetate | yield of 52% | C(C)(=O)OC1=NC=C(C=C1)Br | C7H6BrNO2
